US04400201
Example 1: 2-Isopropylamino-4-methyl-6-[(1-methyl-2,2-dichlorocyclopropyl)methoxy]pyrimidine
8.4 g (0.05 mol) 2-Isopropylamino-6-hydroxy-6-methylpyrimidine, 6.9 g (0.05 mol) K2CO3, 6.9 g (0.05 mol) 1-methyl-2,2-dichlorocyclopropylmethylbromide and 100 ml absolute dimethylformamide are charged in a sulphonation flask and the mixture heated for 26 hours at a bath temperature of 110°. After cooling, the reaction mixture is filtered over diatomaceous earth and concentrated. The resulting orange-red oil is chromatographed on silica gel, using diethylether:n-hexane 1:1 as mobile phase. The title compounds is obtained as a yellow, clear oil, Rf value 0.25.

reactant | 2-Isopropylamino-6-hydroxy-6-methylpyrimidine | 0.05 mol, 8.4 g | C(C)(C)NC=1NC(C=CN1)(C)O | C8H15N3O
reactant | K2CO3 | 0.05 mol, 6.9 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-methyl-2,2-dichlorocyclopropylmethylbromide | 0.05 mol, 6.9 g | CC1(C(C1)(Cl)Cl)CBr | C5H7BrCl2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-Isopropylamino-4-methyl-6-[(1-methyl-2,2-dichlorocyclopropyl)methoxy]pyrimidine | C(C)(C)NC1=NC(=CC(=N1)C)OCC1(C(C1)(Cl)Cl)C | C13H19Cl2N3O
